US07582773B2
Step 1: Synthesis of 5-Bromo-2,3-dimethyl-1H-indole.
The desired product was prepared using a procedure similar to step 1 of example 3. Thus, 4-bromophenylhydrazine, hydrochloride (4.694 g, 21 mmol) was reacted with 2-butanone (1.442 g, 20 mmol) in ethanol (60 ml) to give the product (3.586 g, 16.002 mmol, 76%) as a tan solid, mp 135-137° C. 1H NMR (DMSO-d6) δ 2.11 (s, 3H), 2.29 (s, 3H), 7.05 (dd, J=1.8, 8.4 Hz, 1H), 7.16 (d, J=8.6 Hz, 1H), 7.49 (d, J=1.5 Hz, 1H), 10.85 (s, 1H); [ESI(−)], m/z 222/224 (M−H)−.

reactant | 4-bromophenylhydrazine, hydrochloride | 21 mmol, 4.694 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 2-butanone | 20 mmol, 1.442 g | CC(CC)=O | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-Bromo-2,3-dimethyl-1H-indole | BrC=1C=C2C(=C(NC2=CC1)C)C | C10H10BrN
